US07795267B2
(1,1-Dimethylethyl)3-(hydroxydiphenylmethyl)-1-piperazine carboxylate
Methyl 2-piperazine carboxylate dihydrochloride (20 g, 87 mmol) was suspended in tetrahydrofuran (300 mL), diisopropylethylamine (22 g, 0.17 mmol) was added thereto, and the mixture was stirred at room temperature for 1 hour. Next, a 2.0 M solution of phenylmagnesium bromide in tetrahydrofuran (260 mL, 0.52 mol) was added dropwise over 30 minutes, and the mixture was stirred at room temperature for 14 hours. The reaction solution was ice cooled, water (400 mL) was then added dropwise thereto, and the mixture was stirred for 30 minutes with ice cooling. Di-tert-butyl dicarbonate (13 g, 61 mmol) was added dropwise thereto, and the mixture was stirred at room temperature for 30 minutes. To the reaction solution was added an aqueous saturated ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the title compound (9.7 g, yield 30%).

reactant | Methyl 2-piperazine carboxylate dihydrochloride | 87 mmol, 20 g | Cl.Cl.N1C(CNCC1)C(=O)OC
reactant | diisopropylethylamine | 0.17 mmol, 22 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | Di-tert-butyl dicarbonate | 61 mmol, 13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.52 mol, 260 mL | O1CCCC1 | C4H8O
solvent | water | 400 mL | O | H2O
product | (1,1-Dimethylethyl)3-(hydroxydiphenylmethyl)-1-piperazine carboxylate | 9.7 g, yield 30% | CC(C)(C)OC(=O)N1CC(NCC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C22H28N2O3
